US04782057
A mixture of 5 g of 1,2,3,4-tetrahydro-1-oxo-2-naphthylideneacetic acid and 3 g of phenylhydrazine in 100 ml of ethanol is refluxed for 10 hours. The precipitated crystals are collected by filtration, washed with ethanol and dissolved in 50 ml of acetic acid. The solution is refluxed under heating for 8 hours and the acetic acid is distilled off. The residue is extracted with ethyl acetate and the extract is washed with an aqueous sodium hydrogencarbonate solution. After drying over magnesium sulfate anhydride, the solvent is distilled off and to the residue is added ethanol. The precipitated crystals are collected by filtration and recrystallized from ethanol to give 1.4 g of 2-phenyl-5,6-dihydrobenzo[h]cinnolin-3(2H)-one as pale yellow needles, melting at 155°-157° C.

reactant | 1,2,3,4-tetrahydro-1-oxo-2-naphthylideneacetic acid | 5 g | O=C1C(CCC2=CC=CC=C12)=CC(=O)O | C12H10O3
reactant | phenylhydrazine | 3 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-phenyl-5,6-dihydrobenzo[h]cinnolin-3(2H)-one | 1.4 g | C1(=CC=CC=C1)N1N=C2C3=C(CCC2=CC1=O)C=CC=C3 | C18H14N2O
